US05561101
Preparation of ethyl 2-bromo-4-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]nicotinate (Table D, cpd. no. 524)
3.28 g of ethyl 2-bromo-4-[(4,6-dimethoxy-2-pyrimidinyl)methyl]nicotinate, 3.61 g of SeO2 and 100 ml of glacial acetic acid are combined under nitrogen, heated to 110° for 1.5 hrs and slowly cooled to RT still under nitrogen. The mixture is filtered, washed through with 10 ml of acetic acid and the filtrate evaporated to remove the acetic acid. 100 ml of methylene dichloride is added to the residue and the mixture washed twice with 100 ml of sat. aqueous NaHCO3. The CH2Cl2 phase is filtered and evaporated and the residue digested with 25 ml of 25% ethyl acetate/hexane at 50° for 15 mins. This solution is then poured onto a silica gel column and eluted with 3×125 ml of 25% ethyl acetate/hexane. Evaporation of combined fractions 1 and 2 yields the title product mp 98°-99°.

reactant | ethyl 2-bromo-4-[(4,6-dimethoxy-2-pyrimidinyl)methyl]nicotinate | 3.28 g | BrC1=C(C(=O)OCC)C(=CC=N1)CC1=NC(=CC(=N1)OC)OC | C15H16BrN3O4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-bromo-4-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]nicotinate | BrC1=C(C(=O)OCC)C(=CC=N1)C(=O)C1=NC(=CC(=N1)OC)OC | C15H14BrN3O5
